US03993658
Employing a procedure similar to that described in Example 9, part B above, but substituting equivalent amounts of 4,5,7-trimethyl-1,3-diiminoisoindoline and 2-(p-chloroanilino)-4-imino-2-thiazoline hydrochloride for 1,3-diiminoisoindoline and 2-piperidino-4-imino-2-thiazoline hydrochloride respectively, there is obtained as the product 1-imino-4,5,7-trimethyl-3-[2-(p-chloroanilino)-4-imino-2-thiazolin-5-ylidene]isoindoline hydrochloride.

reactant | 4,5,7-trimethyl-1,3-diiminoisoindoline | CC1=C2C(NC(C2=C(C=C1C)C)=N)=N | C11H13N3
reactant | 2-(p-chloroanilino)-4-imino-2-thiazoline hydrochloride | Cl.ClC1=CC=C(NC=2SCC(N2)=N)C=C1
reactant | 1,3-diiminoisoindoline | N=C1NC(C2=CC=CC=C12)=N | C8H7N3
reactant | 2-piperidino-4-imino-2-thiazoline hydrochloride | Cl.N1(CCCCC1)C=1SCC(N1)=N
product | 1-imino-4,5,7-trimethyl-3-[2-(p-chloroanilino)-4-imino-2-thiazolin-5-ylidene]isoindoline hydrochloride | Cl.N=C1NC(C2=C(C(=CC(=C12)C)C)C)=C1C(N=C(S1)NC1=CC=C(C=C1)Cl)=N | InChI=1S/C20H18ClN5S.ClH/c1-9-8-10(2)14-15(11(9)3)16(25-18(14)22)17-19(23)26-20(27-17)24-13-6-4-12(21)5-7-13;/h4-8H,1-3H3,(H2,22,25)(H2,23,24,26);1H
